US06407116B1
2-Amino-N-[3-(4-diphenylmethoxypiperidino)propyl]benzamide
Using the method similar to that in Reference Example 1 and using 1-(3-aminopropyl)-4-diphenylmethoxypiperidine instead of 4-methoxybenzylamine and starting from isatoic anhydride (2.87 g), the title compound (6.19 g, 66%) was synthesized. This product was used in the next reaction without further purification.

reactant | 1-(3-aminopropyl)-4-diphenylmethoxypiperidine | NCCCN1CCC(CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H28N2O
reactant | isatoic anhydride | 2.87 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | 2-Amino-N-[3-(4-diphenylmethoxypiperidino)propyl]benzamide | 6.19 g, 66% | NC1=C(C(=O)NCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C28H33N3O2
